US09056843B2
To a solution of N-hydroxy-4-o-tolylsulfamoyl-benzamidine (171 mg, 0.56 mmol) in pyridine (3 mL), TFAA (0.79 mL, 5.6 mmol) was added slowly (strong exothermic reaction!). The clear yellow solution was stirred and heated at 75° C. for 18 hrs. Subsequently the reaction mixture was cooled to room temperature. Water and dichloromethane were added and the mixture acidified with 6 M hydrochloric acid. The aqueous layer was separated and re-extracted twice with dichloromethane. The combined organic layers were dried with sodium sulfate, filtered and the solvent evaporated under reduced pressure. The resulting brown oil was purified by flash chromatography (ISCO CombiFlash Rf, 12 g silicagel; A=dichloromethane, B=ethanol, A:B 100:0 to 95:5) to give N-o-tolyl-4-(5-trifluoromethyl-[1,2,4]oxadiazol-3-yl)-benzenesulfonamide (213 mg, 0.54 mmol; 96% yield) as beige solid.

reactant | N-hydroxy-4-o-tolylsulfamoyl-benzamidine | 0.56 mmol, 171 mg | ONC(C1=CC=C(C=C1)S(NC1=C(C=CC=C1)C)(=O)=O)=N | C14H15N3O3S
reactant | TFAA | 5.6 mmol, 0.79 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | Water | O | H2O
reactant | hydrochloric acid | 6 M | Cl | ClH
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | ethanol | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-o-tolyl-4-(5-trifluoromethyl-[1,2,4]oxadiazol-3-yl)-benzenesulfonamide | 0.54 mmol, 213 mg, 96% yield | C1(=C(C=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)C1=NOC(=N1)C(F)(F)F)C | C16H12F3N3O3S
